US08957070B2
N-[2-(1H-1,2,4-Triazol-3-yl)-1H-indol-7-yl]thiophene-2-sulfonamide
A mixture of N-(methoxymethyl)-N-[1-(methoxymethyl)-2-(1H-1,2,4-triazol-3-yl)-1H-indol-7-yl]thiophene-2-sulfonamide (0.40 g), concentrated hydrochloride (1 mL) and methanol (10 mL) was heated under reflux for 3 hr. Water was added to the reaction mixture, and the obtained crystals were filtrated, washed with water and dried to give the title compound (0.19 g, yield 60%) as colorless crystals. The crystals were recrystallized from ethyl acetate. melting point>280° C. (decomposition).

reactant | N-(methoxymethyl)-N-[1-(methoxymethyl)-2-(1H-1,2,4-triazol-3-yl)-1H-indol-7-yl]thiophene-2-sulfonamide | 0.40 g | COCN(S(=O)(=O)C=1SC=CC1)C=1C=CC=C2C=C(N(C12)COC)C1=NNC=N1 | C18H19N5O4S2
reactant | hydrochloride | 1 mL | Cl | ClH
reactant | methanol | 10 mL | CO | CH4O
solvent | Water | O | H2O
product | N-[2-(1H-1,2,4-Triazol-3-yl)-1H-indol-7-yl]thiophene-2-sulfonamide | 0.19 g, yield 60% | N1N=C(N=C1)C=1NC2=C(C=CC=C2C1)NS(=O)(=O)C=1SC=CC1 | C14H11N5O2S2
